US05602277
To methyl 4-amino-3-(2-hydroxyethoxy)benzoate (2.98 g, 0.0141 mol) dissolved in dichloromethane (200 mL) was added acetic anhydride (1.49 mL, 0.0156 mol) and pyridine (1.34 mL, 0.0156 mol). After stirring for 3 h at room temperature, thin-layer chromatographic analysis (SiO2, ethyl acetate) showed disappearance of the starting material along with the appearance of a new lower-running spot (Rf =03) indicating the reaction was complete. The reaction was poured into water (70 mL) and the organic layer washed three times with water (50 mL). The organic layer was concentrated and then dried in vacuo. Thin-layer chromatographic analysis (SiO2, ethyl acetate) showed formation of some material as a higher-running spot (Rf =0.8) in addition to the product. Methanol (50 mL) and a catalytic amount of sodium methoxide was added to the residue. After 1 h, thin-layer chromatographic analysis (SiO2, ethyl acetate) showed only the desired product. The solution was neutralized with H+ resin, filtered, and then concentrated. The residue was recrystallized from ethyl acetate to give 1.88 g (53%) of methyl 4-acetylamino-3-(2-hydroxyethoxy)benzoate as an off-white solid.

reactant | methyl 4-amino-3-(2-hydroxyethoxy)benzoate | 0.0141 mol, 2.98 g | NC1=C(C=C(C(=O)OC)C=C1)OCCO | C10H13NO4
reactant | acetic anhydride | 0.0156 mol, 1.49 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.0156 mol, 1.34 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 70 mL | O | H2O
product | methyl 4-acetylamino-3-(2-hydroxyethoxy)benzoate | 1.88 g, 53% | C(C)(=O)NC1=C(C=C(C(=O)OC)C=C1)OCCO | C12H15NO5
